US04220591
2-p-Ethoxyphenyl acrylic acid
The ethyl-2-p-ethoxyphenyl-3-hydroxypropionate (0.7 g) was refluxed for 7 h in potassium hydroxide solution (20%, 2 ml). It was acidified with dilute HCl and the crude acid (0.46 g, m.p. 103°-107°) used for the next step without further purification.

reactant | ethyl-2-p-ethoxyphenyl-3-hydroxypropionate | 0.7 g | C(C)OC(C(CO)C1=CC=C(C=C1)OCC)=O | C13H18O4
reactant | HCl | Cl | ClH
solvent | potassium hydroxide | 2 ml | [OH-].[K+]
product | 2-p-Ethoxyphenyl acrylic acid | C(C)OC1=CC=C(C=C1)C(C(=O)O)=C | C11H12O3
